Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Demerol / Zithromax
 
Attending: ___
 
Chief Complaint:
involuntary jerks on left side
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year old right handed woman with history of left
facial melanoma s/p local excision, pituitary adenoma s/p
resection, breast cancer, hyperlipidemia, who presents with 
three
days of involuntary jerking of her left upper and lower
extremities. 

The patient endorses symptoms starting 2 days ago, after leaving
her ___, and now gradually worsening. Initially she
had involuntary spasms consisting of left wrist and fingers
extending quickly then resolving, then also her left shoulder
would spasm "in and around" (she mimics the motion of internal
rotation). The movements are brief, nonrhythmic, and varied in
frequency from every 15 minutes, to every second when she 
becomes
fatigued. She has had mild difficulty using that arm, stating it
feels clumsy to use, but she has not dropped anything or felt
weak. Interesting, she feels that she can suppress the movements
if she tries hard enough. She also developed flexion movements 
in
her left ankle and rotation of her hip, but these are infrequent
and not as prominent as in her arm. The movements are not
associated with pain, sensory symptoms, loss of consciousness.
Due to symptoms slightly worsening over the past 3 days, she
presented to ED for further evaluation.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
shortness of breath. Mild dry cough. Denies chest pain or
tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. Denies arthralgias or myalgias.
Denies rash.
 
Past Medical History:
Hyperlipidemia
Left face melanoma s/p local excision ___ years ago
Breast cancer
Pituitary adenoma s/p resection ___ years ago, serially monitored
w/ MRI (most recent ___ yr ago)
Mild essential tremor of neck, mostly resolved
 
Social History:
___
Family History:
No family history of autoimmune or neurologic conditions
 
Physical Exam:
Vitals: temp 96.8 HR 60 BP 159/87 RR 16 spO2 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Occasional spasmodic
movements of the left upper extremity, most commonly shoulder
internal rotation and extension, but at times with larger
amplitude dyskinetic movements with "writhing" quality. These
movements are nonrhythmic, not stereotyped. No movements 
observed
in her lower extremity.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-DTRs: 2+ throughout. Plantar response was flexor bilaterally.

-Coordination: No intention tremor noted. No dysmetria on FNF or
HKS, however left side is slightly dysrhythmic relative to 
right,
particularly in fine finger and hand movements.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge physical examination identical to admission physical 
examination
 
Pertinent Results:
___ 05:50AM BLOOD WBC-7.3 RBC-4.24 Hgb-13.2 Hct-39.6 MCV-93 
MCH-31.1 MCHC-33.3 RDW-12.6 RDWSD-43.3 Plt ___
___ 07:57PM BLOOD Neuts-58.2 ___ Monos-7.8 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-4.92 AbsLymp-2.65 AbsMono-0.66 
AbsEos-0.16 AbsBaso-0.04
___ 07:57PM BLOOD ___ PTT-29.1 ___
___ 05:50AM BLOOD Glucose-93 UreaN-17 Creat-0.8 Na-141 
K-4.2 Cl-104 HCO3-27 AnGap-14
___ 07:57PM BLOOD ALT-21 AST-24 AlkPhos-72 TotBili-0.4
___ 07:57PM BLOOD Lipase-45
___ 10:31AM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.0 Cholest-249*
___ 10:31AM BLOOD %HbA1c-5.5 eAG-111
___ 05:50AM BLOOD Triglyc-178* HDL-69 CHOL/HD-3.6 
LDLcalc-144*
___ 07:57PM BLOOD TSH-4.3*
___ 10:31AM BLOOD Free T4-1.3
 
Brief Hospital Course:
Hospital Day 1:  Head MRI showed an infarct in the medial right 
temporal lobe abutting the basal ganglia. C-spine MRI showed 
C5-C6 and C6-C8 spondylosis but did not show any spinal cord 
abnormalities. Patient was monitored on telemetry and was noted 
to have a regular heart rate throughout admission.

Hospital Day 2: Patient started on aspirin.  CTA head and neck 
was negative.  Labs sent for stroke work up.

Hospital Day 3: Pravastatin does increased to 40 mg qd after 
lipid results, with was significant for LDL of 164 and 
triglycerides of 178, though the patient was not fasting when 
these were drawn.

Hospital Day 4: Patient received echochardiogram which was 
within normal limits. EF 67%.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for abnormal movements in your arm.  You were 
found to have a stroke in the right medial temporal lobe of your 
brain.  In order to treat it we gave you aspirin.  We also 
monitored your heart and looked at your blood coagulation and 
lipids to see if there were unknown risk factors that could have 
contributed to this event. These were unremarkable except for an 
elevated cholesterol, for which you should take an increased 
dose of the anti-cholesterol medication, pravastatin. 
 
Followup Instructions:
___